US07528262B2
2-[1-(4-Benzyloxyphenyl)-1H-indol-2-yl]ethanol.
1-(4-Benzyloxyphenyl)-2-[2-(tert-butyldimethylsilanyloxy)ethyl]-1H-indole (0.62 mmol, 1.35 mmol) was dissolved in tetrahydrofuran (6 mL) under N2, and tetrabutylammonium fluoride (1.49 mL, 1 M in tetrahydrofuran, 1.49 mmol) was added. The reaction was stirred for 2 hours, then quenched with saturated ammonium acetate. The mixture was extrated with ethyl acetate, dried over MgSO4, and concentrated. The residue was passed through a plug of silica with ethyl acetate. The filtrate was concentrated to give the desired product. The reaction was assumed to be quantitative. LC-MS (C23H21NO2 calc'd 343) m/z 344 (M+H).

reactant | 1-(4-Benzyloxyphenyl)-2-[2-(tert-butyldimethylsilanyloxy)ethyl]-1H-indole | 0.62 mmol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)CCO[Si](C)(C)C(C)(C)C | C29H35NO2Si
reactant | tetrabutylammonium fluoride | 1.49 mmol, 1 M, 1.49 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 2-[1-(4-Benzyloxyphenyl)-1H-indol-2-yl]ethanol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)CCO | C23H21NO2
